US08026237B2
Preparation of 1-(4-fluoro-2-trifluoromethyl-phenyl)-2,5-dimethyl-1H-pyrrole-3-carbaldehyde
To anhyd DMF (10 mL) cooled under nitrogen to 0° C. was added phosphorous oxychloride (1.2 mL, 13.1 mmol). The resulting mixture was stirred at 0° C. for 30 min and then a solution of 1-[4-fluoro-2-(trifluoromethyl)phenyl]-2,5-dimethyl-1H-pyrrole (3.19 g, 12.4 mmol) in anhyd DMF (15 mL) was added portionwise. The reaction mixture was maintained at 0-3° C. for 10 min and then the reaction flask was heated on an oil bath at 95-100° C. After heating 1.5 h, the reaction mixture was cooled and poured onto 200 mL of ice cold 1 M NaOH. The resulting suspension was extracted twice with DCM. The combined extracts were dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (SiO2), eluting with EtOAc/Hex (10:90 to 30:70) to afford the title compound as a light yellow solid (1.3 g, 37%); 1H-NMR (CDCl3): δ 9.90 (s, 1H), 7.58 (dd, J=8, 3 Hz, 1H), 7.43 (m, 1H), 7.29 (dd, J=5, 8 Hz, 1H), 6.39 (s, 1H), 2.20 (s, 3H), 1.91 (s, 3H); MS (ESI) m/z 286 [M+H]+.

reactant | phosphorous oxychloride | 13.1 mmol, 1.2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-[4-fluoro-2-(trifluoromethyl)phenyl]-2,5-dimethyl-1H-pyrrole | 12.4 mmol, 3.19 g | FC1=CC(=C(C=C1)N1C(=CC=C1C)C)C(F)(F)F | C13H11F4N
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(4-fluoro-2-trifluoromethyl-phenyl)-2,5-dimethyl-1H-pyrrole-3-carbaldehyde | 1.3 g, 37% | FC1=CC(=C(C=C1)N1C(=C(C=C1C)C=O)C)C(F)(F)F | C14H11F4NO
